Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Upper GI bleed
 
Major Surgical or Invasive Procedure:
EGD w/ duodenal biopsy embolization ___
 
History of Present Illness:
___ pmh of duodenal ulcer who presents with melena x10 episodes 
over past day with dizziness and orthostatic symptoms over past 
few days. He was diagnosed with 2 duodenal ulcers approximately 
___ years ago in ___ on EGD. Reports experiencing melena at 
that time. He was also diagnosed with H. pylori and recalls 
taking antibiotics for 45 days. He took omeprazole for several 
years but stopped 1.5 to ___ yrs ago. He denies any bleeding 
episodes over the past ___ yrs. He denies nsaid use, heavy 
drinking, or drug use.

Pt states that this morning he stood up at work and felt dizzy 
and drove home then to ___. He was transferred here for GI 
consult and ICU level care. He was transferred from the ED to 
the MICU for a hgb drop of 10.4 to 8.2 over the course of the 
day and planned EGD by GI in AM.  

In ED initial VS:
98.4, 99 , 98/60 18 100% RA 

Exam: 
GA:NAD
Neuro: AAOx3
CV: nl S1S2, RRR, no m/r/g, 2+ peripheral pulses b/l
Pulm: CTAB
Abd: firm, nt, nd, no masses, FOBT + red stool
 
Labs significant for: 
___ 10.4, WBC 13.9
  
13.4  8.2  198 
      24.7 

138  ___   AGap=10 
3.9  25  0.8  

ALT: 15 AP: 37 Tbili: 0.2 Alb: 3.4 
AST: 11 LDH:  Dbili:  TProt:  
___:  Lip: 12  

Lactate:1.3 

___: 12.8  PTT: 28.2  INR: 1.2  

Patient was given:  
___ 16:42 IVF  NS  ___ Started  
___ 17:37 IVF  NS 1000 mL ___ Stopped (___)  
___ 17:37 IVF  NS ( 1000 mL ordered) ___ Started 
Stop 

Imaging notable for:  No imaging

Consults: 
GI with the following recs: +tobacco.   HR 90-100.  BP
stable.  Hgb 8.6.  BUN 26.  Suspect UGIB, likely recurrent PUD. 
Plan: IVF, NPO s/p MN, PPI bid, monitor h/h closely, EGD in AM 
or
sooner if needed. 
 
On arrival to the MICU, patient relatively well, no chest pain, 
respiratory distress, dizziness, abdominal pain. 

 
Past Medical History:
Duodenal ulcer
 
Social History:
___
Family History:
No family history of PUD, gastric cancer or CRC. 
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: reviewed in metavision 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rash or lesions
NEURO:  A&Ox3, no focal deficits 

DISCHARGE EXAM
==============
Vital Signs: 98.4  80   12  112/62   97% on RA
glucose: 
. 
GEN: NAD, well-appearing,  sitting in chair, alert, interactive
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c/e
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

 
Pertinent Results:
ADMISSION LABS
==============
___ 04:35PM BLOOD WBC-11.2* RBC-3.16* Hgb-8.8* Hct-27.1* 
MCV-86 MCH-27.8 MCHC-32.5 RDW-13.2 RDWSD-41.4 Plt ___
___ 04:35PM BLOOD Neuts-72.6* ___ Monos-4.4* 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-8.13* AbsLymp-2.47 
AbsMono-0.49 AbsEos-0.03* AbsBaso-0.02
___ 04:35PM BLOOD ___ PTT-28.2 ___
___ 04:35PM BLOOD Glucose-102* UreaN-26* Creat-0.8 Na-138 
K-3.9 Cl-103 HCO3-25 AnGap-10
___ 04:35PM BLOOD ALT-15 AST-11 AlkPhos-37* TotBili-0.2
___ 04:35PM BLOOD Lipase-12
___ 04:35PM BLOOD Albumin-3.4*
___ 04:47PM BLOOD Lactate-1.3

OTHER DATA: 
# EGD (___): Erosion in the antrum. Ulcer in the duodenal sweep 
(injection). The esophagus was not well visualized but did not 
appear to have varices or stigmata of bleeding. Otherwise normal 
EGD to third part of the duodenum

# Mesenteric Angiogram/Embolization (___): FINDINGS:  1. 
Initial celiac arteriogram does not demonstrate any evidence of 
active 
bleeding, pseudoaneurysm or vascular abnormality. 2. Dedicated 
gastro duodenal arteriogram does not demonstrate any active 
bleeding. Areteries supplying the dueodenal sweep, the area of 
the actively 
bleeding vessel on the EGD was identfied. 3. Post embolization 
common hepatic arteriogram demonstrates no flow through the 
embolized gastroduodenal artery and demonstrates excellent flow 
through 
the common and proper hepatic arteries with excellent distal 
flow into the liver. 4. Superior mesenteric arteriogram does not 
show any evidence of active bleeding or pseudoaneurysm from 
branches of the pancreaticoduodenal arcade. 5. Right common 
femoral arteriogram demonstrates access above the level of the 
common femoral artery bifurcation at the level of the mid 
femoral head.  
IMPRESSION: 1. Successful embolization of the gastroduodenal 
artery using Gelfoam and coils. 

 
Brief Hospital Course:
___ with PMH of duodenal ulcer, H.pylori who presents with 
melena, hypotension (SBP ___, and an acute 2 point drop in Hgb, 
found to have actively bleeding duodenal ulcer on EGD s/p 
embolization ___.

#HYPOVOLEMIC SHOCK
#DUODENAL GI BLEED
Hypovolemic shock from GI blood loss. History of duodenal ulcers 
with GIB and H. pylori s/p antibiotic therapy ___ years ago, off 
PPI treatment for several years. Mr. ___ presented with 
melena with acute drop in hemoglobin (10-->7). No evidence of 
coagulopathy. An EGD was done ___ which showed an actively 
bleeding duodenal ulcer - which could not be controlled.  He 
underwent ___ embolization for which he was intubated and 
sedated.  He was temporarily placed on phenylephrine gtt.  He 
was able to be extubated after 24 hours without incident.  Hgb, 
vitals were stbale.  He was transfused total 4u during this 
hospitalization.  He was extubated without complications ___. 
Groin check normal, was able to tolerate clears. 
  He was transferred to the floor on ___, observed overnight 
with no evidence of further bleed.  He was maintained on PPI 
BID.  Stool HPylori Ag was sent and pending at the time of 
discharge.  
   He will follow up with his PCP and GI - for consider rescope 
for evaluation of duoudenal biopsy for MALT evaluation and 
HPylori treatment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper gastrointestinal bleeding
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure to look after you.  As you know, you were 
admitted with gastrointestinal bleeding.  The bleeding was found 
to arise from the duodenum based on an endoscopy test.  
Ultimately, the bleeding had to be stopped by plugging 
(embolizing) the blood vessel via an interventional radiology 
procedure.

    You received a total of 4 units of packed red blood cells.  
You were observed and blood count remained stable.  We suspect 
the bleeding is due to HPylori infection.  A stool sample was 
sent to check for presence of this infection.  It is pending at 
the time of discharge.  You will have a follow up with 
gastroenterology service to follow up with the results and 
determine the need for full treatment of the possible HPylori 
infection.

   Please continue to take the Prilosec - which will ensure that 
the ulcer heals appropriately.

  It was a pleasure looking after you.   We wish you good 
health!

Your ___ team
 
Followup Instructions:
___